Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
[CH3:1][CH2:2][CH2:3][c:4]1[c:5]([CH2:6][c:7]2[cH:24][cH:23][c:10](-[c:11]3[cH:12][cH:13][cH:14][cH:15][c:16]3-[c:17]3[n:18][o:19][c:20](=[O:21])[nH:22]3)[cH:9][cH:8]2)[c:25](=[O:26])[n:27](-[c:28]2[cH:29][cH:30][c:31]([O:32][C:33]([CH3:34])([CH3:35])[CH:36]([CH3:37])[OH:38])[cH:39][cH:40]2)[c:41]([CH3:42])[n:43]1>>[CH3:1][CH2:2][CH2:3][c:4]1[c:5]([CH2:6][c:7]2[cH:8][cH:9][c:10](-[c:11]3[cH:12][cH:13][cH:14][cH:15][c:16]3-[c:17]3[n:18][o:19][c:20](=[O:21])[nH:22]3)[cH:23][cH:24]2)[c:25](=[O:26])[n:27](-[c:28]2[cH:29][cH:30][c:31]([O:32][C:33]([CH3:34])([CH3:35])[C:36]([CH3:37])=[O:38])[cH:39][cH:40]2)[c:41]([CH3:42])[n:43]1,[CH3:1][CH2:2][CH2:3][c:4]1[c:5]([CH2:6][c:7]2[cH:8][cH:9][c:10](-[c:11]3[cH:12][cH:13][cH:14][cH:15][c:16]3-[c:17]3[n:18][o:19][c:20](=[O:21])[nH:22]3)[cH:23][cH:24]2)[c:25](=[O:26])[n:27](-[c:28]2[cH:29][cH:30][c:31]([O:32][C:33]([CH3:34])([CH3:35])[CH:36]([CH3:37])[OH:38])[cH:39][cH:40]2)[c:41]([CH3:42])[n:43]1.O[Cr:301]([OH:302])(=[O:303])=O>>[CH3:1][CH2:2][CH2:3][c:4]1[c:5]([CH2:6][c:7]2[cH:8][cH:9][c:10](-[c:11]3[cH:12][cH:13][cH:14][cH:15][c:16]3-[c:17]3[n:18][o:19][c:20](=[O:21])[nH:22]3)[cH:23][cH:24]2)[c:25](=[O:26])[n:27](-[c:28]2[cH:29][cH:30][c:31]([O:32][C:33]([CH3:34])([CH3:35])[C:36]([CH3:37])=[O:38])[cH:39][cH:40]2)[c:41]([CH3:42])[n:43]1,Jones_oxidation,"[(38, 301), ([301, 303], 303), (303, [303, 301]), ([301, 302], 38.1), ([38.1, 38], 38), ([301, 303], 36.1), ([36.1, 36], [36, 38]), ([38, 301], 301)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1](=[O:2])[c:3]1[c:4]([CH2:5][N:6]2[CH2:7][CH2:8][CH2:9][C:10]2=[O:11])[c:12](-[c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)[n:19][c:20]2[cH:21][cH:22][cH:23][cH:24][c:25]12.[NH2:26][C@H:27]([c:28]1[cH:29][cH:30][cH:31][c:32]([F:33])[cH:34]1)[CH:35]1[CH2:36][CH2:37]1>>[C:1](=[O:2])([c:3]1[c:4]([CH2:5][N:6]2[CH2:7][CH2:8][CH2:9][C:10]2=[O:11])[c:12](-[c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)[n:19][c:20]2[cH:21][cH:22][cH:23][cH:24][c:25]12)[NH:26][C@H:27]([c:28]1[cH:29][cH:30][cH:31][c:32]([F:33])[cH:34]1)[CH:35]1[CH2:36][CH2:37]1,[OH:101][C:1](=[O:2])[c:3]1[c:4]([CH2:5][N:6]2[CH2:7][CH2:8][CH2:9][C:10]2=[O:11])[c:12](-[c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)[n:19][c:20]2[cH:21][cH:22][cH:23][cH:24][c:25]12.[NH2:26][C@H:27]([c:28]1[cH:29][cH:30][cH:31][c:32]([F:33])[cH:34]1)[CH:35]1[CH2:36][CH2:37]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1](=[O:2])([c:3]1[c:4]([CH2:5][N:6]2[CH2:7][CH2:8][CH2:9][C:10]2=[O:11])[c:12](-[c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)[n:19][c:20]2[cH:21][cH:22][cH:23][cH:24][c:25]12)[NH:26][C@H:27]([c:28]1[cH:29][cH:30][cH:31][c:32]([F:33])[cH:34]1)[CH:35]1[CH2:36][CH2:37]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (26, 1), ([1, 2], 2), (303, 26.1), ([26.1, 26], 26), (2, [2, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[C:1](=[O:2])[CH2:3][c:4]1[cH:5][cH:6][cH:7][cH:8][cH:9]1.[F:10][C:11]([F:12])([F:13])[c:14]1[cH:15][cH:16][c:17]([CH:18]2[NH:19][CH2:20][CH2:21][c:22]3[cH:23][cH:24][cH:25][cH:26][c:27]32)[cH:28][cH:29]1>>[C:1](=[O:2])([CH2:3][c:4]1[cH:5][cH:6][cH:7][cH:8][cH:9]1)[N:19]1[CH:18]([c:17]2[cH:16][cH:15][c:14]([C:11]([F:10])([F:12])[F:13])[cH:29][cH:28]2)[c:27]2[c:22]([cH:23][cH:24][cH:25][cH:26]2)[CH2:21][CH2:20]1,[F:10][C:11]([F:12])([F:13])[c:14]1[cH:15][cH:16][c:17]([CH:18]2[NH:19][CH2:20][CH2:21][c:22]3[cH:23][cH:24][cH:25][cH:26][c:27]32)[cH:28][cH:29]1.[Cl:101][C:1](=[O:2])[CH2:3][c:4]1[cH:5][cH:6][cH:7][cH:8][cH:9]1>>[C:1](=[O:2])([CH2:3][c:4]1[cH:5][cH:6][cH:7][cH:8][cH:9]1)[N:19]1[CH:18]([c:17]2[cH:16][cH:15][c:14]([C:11]([F:10])([F:12])[F:13])[cH:29][cH:28]2)[c:27]2[c:22]([cH:23][cH:24][cH:25][cH:26]2)[CH2:21][CH2:20]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(19, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
